US06794389B2
cis-N-tert-Butoxycarbonyl-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine
A solution of 68 mg of 4-chlorobenzoyl chloride and 200 mg of diisopropylethylamine in 8 mL of methylene chloride was combined with 150 mg of cis-2-(2-amino-6-methoxyquinazolin-4-yl)amino-N-tert-butoxycarbonylcyclohexylamine, and stirred at room temperature for 15 hours. The reaction solution was combined with water, extracted with chloroform, and dried. After the solvent was distilled off, the residue was purified by column chromatography on silica gel (chloroform:methanol=30:1) to obtain 120 mg of the desirable compound.

reactant | 4-chlorobenzoyl chloride | 68 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | diisopropylethylamine | 200 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cis-2-(2-amino-6-methoxyquinazolin-4-yl)amino-N-tert-butoxycarbonylcyclohexylamine | 150 mg | NC1=NC2=CC=C(C=C2C(=N1)N[C@@H]1[C@@H](CCCC1)NC(=O)OC(C)(C)C)OC | C20H29N5O3
reactant | water | O | H2O
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | cis-N-tert-Butoxycarbonyl-2-[2-(4-chlorobenzoylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine | 120 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)NC(C1=CC=C(C=C1)Cl)=O | C27H32ClN5O4
